US06169107A
A mixture of 4.60 g (21.0 mmol) of 1-methylindole-2,7-dicarboxylic acid, 0.5 g of copper (II) oxide and 50 ml of quinoline was stirred for an hour with heating at 180° C. After cooling, the reaction mixture was poured onto 200 ml of 2N hydrochloric acid. The mixture was extracted three times with ethyl acetate and the combined extracts were washed with saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was isolated and purified by silica gel column chromatography to give 1.82 g (49.0%) of 1-methyl-7-indolecarboxylic acid.

reactant | 1-methylindole-2,7-dicarboxylic acid | 21.0 mmol, 4.60 g | CN1C(=CC2=CC=CC(=C12)C(=O)O)C(=O)O | C11H9NO4
reactant | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper (II) oxide | 0.5 g | [Cu]=O
solvent | hydrochloric acid | 2N, 200 ml | Cl | ClH
product | 1-methyl-7-indolecarboxylic acid | 1.82 g, 49.0% | CN1C=CC2=CC=CC(=C12)C(=O)O | C10H9NO2
